US05349067
Synthesis of N-(4-methylbenzyl)-N,N-dimethylanilinium 4-dodecylbenzenesulfonate
12.21 g (0.1 mol) of 4-methylbenzylalcohol was dissolved in 60 g of 1,4-dioxane, and was added while cooling to 11.22 g (0.1 mol) of potassium t-butoxide. The solution was added dropwise to a solution of 34.5 g (0.1 mol) of 4-dodecylbenzenesulfonyl chloride in 1,4-dioxane over one hour. Subsequently, 12.12 g (0.1 mol) of N,N-dimethylaniline was added and stirred at room temperature for 16 hours. After the completion of the reaction, the mixture was filtered and concentrated, and the precipitated solid was washed with ether and dried to give the titled compound. Yield: 53%.

reactant | 4-methylbenzylalcohol | 0.1 mol, 12.21 g | CC1=CC=C(CO)C=C1 | C8H10O
reactant | potassium t-butoxide | 0.1 mol, 11.22 g | CC(C)([O-])C.[K+]
reactant | 4-dodecylbenzenesulfonyl chloride | 0.1 mol, 34.5 g | C(CCCCCCCCCCC)C1=CC=C(C=C1)S(=O)(=O)Cl | C18H29ClO2S
reactant | N,N-dimethylaniline | 0.1 mol, 12.12 g | CN(C1=CC=CC=C1)C | C8H11N
solvent | 1,4-dioxane | 60 g | O1CCOCC1 | C4H8O2
product | N-(4-methylbenzyl)-N,N-dimethylanilinium 4-dodecylbenzenesulfonate | Yield: 53% | C(CCCCCCCCCCC)C1=CC=C(C=C1)S(=O)(=O)[O-].CC1=CC=C(C[N+](C2=CC=CC=C2)(C)C)C=C1 | InChI=1S/C18H30O3S.C16H20N/c1-2-3-4-5-6-7-8-9-10-11-12-17-13-15-18(16-14-17)22(19,20)21;1-14-9-11-15(12-10-14)13-17(2,3)16-7-5-4-6-8-16/h13-16H,2-12H2,1H3,(H,19,20,21);4-12H,13H2,1-3H3/q;+1/p-1
